US04545984
A mixture of 42 g (0.2 mol) 3,4-dichlorobenzoyl chloride and 200 ml ethanol was heated to boiling for 2 hours, evaporated, the residue taken up in ether, the solution washed with NaHCO3 -solution and water, dried and evaporated. The distillation yielded 32 g (73% theor.) ethyl-3,4-dichlorobenzoate with a BP of 84° C./0.13 mbar and a mp of 33° to 35° C.

reactant | 3,4-dichlorobenzoyl chloride | 0.2 mol, 42 g | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
reactant | ethanol | 200 ml | C(C)O | C2H6O
product | ethyl-3,4-dichlorobenzoate | 32 g, 73% | C(C)OC(C1=CC(=C(C=C1)Cl)Cl)=O | C9H8Cl2O2
